* SPICE3 file created from clock.ext - technology: scmos

.option scale=0.01u

M1000 a_n3_n15# vin vdd w_n25_3# pmos w=81 l=27
+  ad=6561 pd=324 as=5.93519e+06 ps=37098
M1001 a_46_n29# a_n3_n15# vdd w_26_3# pmos w=234 l=27
+  ad=37908 pd=792 as=0 ps=0
M1002 vout a_46_n29# vdd w_90_4# pmos w=1836 l=27
+  ad=1.13658e+07 pd=35082 as=0 ps=0
M1003 vout a_314_n801# vdd w_263_5# pmos w=14571 l=27
+  ad=0 pd=0 as=0 ps=0
M1004 a_n3_n15# vin Gnd Gnd nmos w=36 l=27
+  ad=3564 pd=270 as=2.1397e+06 ps=17784
M1005 a_46_n29# a_n3_n15# Gnd Gnd nmos w=108 l=27
+  ad=18468 pd=558 as=0 ps=0
M1006 vout a_46_n29# Gnd Gnd nmos w=792 l=27
+  ad=5.06606e+06 pd=16452 as=0 ps=0
M1007 vout a_314_n801# Gnd Gnd nmos w=6192 l=27
+  ad=0 pd=0 as=0 ps=0
C0 Gnd Gnd 3.33fF
C1 vout Gnd 2.36fF
C2 vdd Gnd 3.77fF
C3 w_263_5# Gnd 121.15fF
C4 w_90_4# Gnd 13.57fF
vin  N006 0 PULSE(2.5 0 0 0.1 0.1 0.5 1 10)
vdd N004 0 1.8
.model NMOS NMOS
.model PMOS PMOS
.print vin
.print vout
.tran 1
.end